US04686228
Phenylisocyanate (1.1 g) was added to a stirred suspension of 4-amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline (0.72 g) in chloroform (25 ml) at room temperature and the reaction mixture was stirred for 4 hours. The mixture was evaporated in vacuo, the residue taken up in methanol-chloroform and treated with ethereal hydrogen chloride. The crude product was purified by chromatography on silica gel eluting with methylene chloride followed by chloroform/methanol and then recrystallised from methanol/ether to give 4-amino-6,7-dimethoxy-2-[4-(N-phenylcarbamoyl)piperazin-1-yl]quinoline dihydrochloride (0.18 g), m.p. 235°.

reactant | Phenylisocyanate | 1.1 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline | 0.72 g | NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C15H20N4O2
reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-6,7-dimethoxy-2-[4-(N-phenylcarbamoyl)piperazin-1-yl]quinoline dihydrochloride | 0.18 g | Cl.Cl.NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(NC1=CC=CC=C1)=O | InChI=1S/C22H25N5O3.2ClH/c1-29-19-12-16-17(23)13-21(25-18(16)14-20(19)30-2)26-8-10-27(11-9-26)22(28)24-15-6-4-3-5-7-15;;/h3-7,12-14H,8-11H2,1-2H3,(H2,23,25)(H,24,28);2*1H
